US07795267B2
Hexahydro-1,1-diphenyl-7-(phenylsulfonyl)-3H-oxazolo[3,4-a]pyrazin-3-one
To a solution of hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (50 mg, 0.17 mmol) in chloroform (2 mL) were sequentially added pyridine (0.5 mL) and benzenesulfonyl chloride (43 mg, 0.24 mmol), and the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1) and crystallized from diisopropyl ether to obtain the title compound (27 mg, yield 37%).

reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.17 mmol, 50 mg | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 0.24 mmol, 43 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | Hexahydro-1,1-diphenyl-7-(phenylsulfonyl)-3H-oxazolo[3,4-a]pyrazin-3-one | 27 mg, yield 37% | C1(=CC=CC=C1)C1(OC(N2C1CN(CC2)S(=O)(=O)C2=CC=CC=C2)=O)C2=CC=CC=C2 | C24H22N2O4S
